data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-c1ccc(OC)cc1_2-C(=O)OC_3-S(=O)(=O)c1ccccc1_4-C=C_5-C(C)C","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(OC)cc1C(C(=O)OC)=C(S(=O)(=O)c1ccccc1)C(C=C)C(C)C","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(OC)cc1C(C(=O)OC)=C(S(=O)(=O)c1ccccc1)C(C=C)(C(C)C)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(C(=O)OC)=C(S(=O)(=O)c1ccccc1)[C](C=C)C(C)C","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(C(=O)OC)=C(S(=O)(=O)c1ccccc1)C(C=C)(C(C)C)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-104_1-c1cnccn1","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(c1cnccn1)C(=O)O","P","BrBr"],"products_smiles": ["C(c1cnccn1)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1cnccn1)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1cnccn1)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccn1)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1cnccn1)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccn1)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
